US06908939B2
(c) tert-butyl (4′-formylbiphenyl-3-ylmethyl)methylcarbamate
61.5 g (205 mmol) of tert-butyl (3-bromobenzyl)-N-methylcarbamate, 40 g (260 mmol) of 4-formylbenzeneboronic acid and 800 ml of toluene are introduced into a three-necked flask and under argon. 205 ml of an aqueous potassium carbonate solution (2 M) are added dropwise, the reaction medium is degassed with argon and 7 g of tetrakis(triphenylphosphine)-palladium(0) chloride are added and the mixture is heated at 90° C. for 24 hours. The reaction medium is poured into water, extracted with dichloromethane, the organic phase decanted off, dried over magnesium sulphate and evaporated off. The residue obtained is purified by chromatography on a silica column eluted with a heptane and ethyl acetate (70-30) mixture. After evaporation of the solvents, 38 g (57%) of the expected product are recovered.

reactant | tert-butyl (3-bromobenzyl)-N-methylcarbamate | 205 mmol, 61.5 g | BrC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C13H18BrNO2
reactant | 4-formylbenzeneboronic acid | 260 mmol, 40 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | potassium carbonate | 2 M, 205 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4′-formylbiphenyl-3-ylmethyl)methylcarbamate | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C20H23NO3
